US05416070
BOC-L-Ala-SerOH
BOC-L-Ala (567 mg, 2 mMol) and HOBT.H2O (505 mg, 3.3 mMol) were dissolved in 5 ml CH2Cl2 and 5 ml DMF, then treated with 1,3-dicyclohexylcarbodiimide (DCC, 680 mg, 3.3 mMol). The resulting solution was stirred at RT for one hour, then treated dropwise with a solution that contained 421 mg (3.3 mMol) of serinol hydrochloride (Aldrich) and 333 mg (3.3 mMol) of N-methylmorpholine in 5 ml of DMF. The reaction mixture was stirred at RT for 20 hours, then treated with 0.5 ml of glacial acetic acid and stirred for another hour. The solid reaction by-products were removed by filtration and washed with 20 ml CH2Cl2. The combined filtrate and washings was concentrated to dryness on the rotary evaporator then further dried under high vacuum. The oily residue was taken up in 50 ml of H2O, cooled at 4° C. for several hours, then filtered. The filtrate was concentrated to dryness on the rotary evaporator, then further dried under high vacuum to yield the crude product as a yellow oil.

reactant | BOC-L-Ala | 2 mMol, 567 mg | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 3.3 mMol, 505 mg | O | H2O
reactant | 1,3-dicyclohexylcarbodiimide | 3.3 mMol, 680 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | serinol hydrochloride | 3.3 mMol, 421 mg | Cl.NC(CO)CO
reactant | N-methylmorpholine | 3.3 mMol, 333 mg | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | BOC-L-Ala-SerOH | N([C@@H](C)C(=O)N[C@@H](CO)C(=O)O)C(=O)OC(C)(C)C | C11H20N2O6
